US05013863
To 22.72 g of ethyl 2-cyanoethyl(phenyl)phosphinate in 400 ml of ethanol are added 34 g of liquid ammonia and 4.5 g of Raney-Nickel. The mixture is heated to 80° and treated with hydrogen at 100 bar. After 30 minutes hydrogen up-take stops. The reaction mixture is filtered and the filtrate distilled to give ethyl 3-aminopropyl(phenyl)phosphinate as a colorless oil, b.p. 110°/13 Pa.

reactant | ethyl 2-cyanoethyl(phenyl)phosphinate | 22.72 g | C(#N)CCP(OCC)(=O)C1=CC=CC=C1 | C11H14NO2P
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | Raney-Nickel | 4.5 g | [Ni] | Ni
product | ethyl 3-aminopropyl(phenyl)phosphinate | NCCCP(OCC)(=O)C1=CC=CC=C1 | C11H18NO2P
